US04263315
A suspension of 7.7 g of 2-bromo-10,11-dimethyl-11-hydroxy-10,11-dihydro-dibenz[b,f]thiepine in 40 ml of 20% sulfuric acid is refluxed for 36 hours, with rapid stirring. The mixture is then cooled and extracted with three times 50 ml of ether. The ether extracts are combined, washed with water until neutral, dried over magnesium sulfate and evaporated to dryness under reduced pressure. The residue is dissolved in 32 ml of 20% ethanolic potassium hydroxide solution and the solution is refluxed for 40 hours. It is then concentrated to dryness under reduced pressure and the residue is extracted with 100 ml of ether. The ether solution is washed with 20 ml of water, dried over magnesium sulfate and evaporated to dryness under reduced pressure. The residue is dissolved in 300 ml of methanol, a small amount of insoluble matter is filtered off and the filtrate is concentrated under reduced pressure. 2-Bromo-10,11-dimethyl-dibenz[b,f]thiepine is obtained in the form of yellowish crystals; melting point 108°-111°.

reactant | 2-bromo-10,11-dimethyl-11-hydroxy-10,11-dihydro-dibenz[b,f]thiepine | 7.7 g | BrC1=CC2=C(SC3=C(C(C2(O)C)C)C=CC=C3)C=C1 | C16H15BrOS
solvent | sulfuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
product | 2-Bromo-10,11-dimethyl-dibenz[b,f]thiepine | BrC1=CC2=C(SC3=C(C(=C2C)C)C=CC=C3)C=C1 | C16H13BrS
